US06610346B1
To a solution of 5.0 g (34 mmol) of (rac)-3-mercapto-3-methyl-hexan-1-ol in 20 ml of CCl4 was added in portions 8.6 g (37 mmol) of 3,5-dinitrobenzoyl chloride. The mixture was stirred for 72 h, then 10 ml of a saturated NaHCO3 solution was added, the organic layer was separated, washed with 15 ml of brine, dried over MgSO4 and concentrated in vacuo. The residue was purified by flash-chromatography (silicagel, hexane/EtOAc 4:1) and gave 9.8 g (84%) of (rac)-3,5-dinitro-benzoic acid 3-mercapto-3-methyl-hexyl ester.

reactant | (rac)-3-mercapto-3-methyl-hexan-1-ol | 34 mmol, 5.0 g | SC(CCO)(CCC)C | C7H16OS
reactant | 3,5-dinitrobenzoyl chloride | 37 mmol, 8.6 g | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=C(C1)[N+](=O)[O-] | C7H3ClN2O5
reactant | NaHCO3 | 10 ml | C(=O)(O)[O-].[Na+]
solvent | CCl4 | 20 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | (rac)-3,5-dinitro-benzoic acid 3-mercapto-3-methyl-hexyl ester | 9.8 g, 84% | SC(CCOC(C1=CC(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-])=O)(CCC)C | C14H18N2O6S
